US04035426
Procedure 3. 2-Chloro-3-(p-methoxyphenyl)-2-cyclobuten-1-one
2Chloro-1,1-difluoro-3-(p-methoxyphenyl)-2-cyclobutene (215 g., 0.93 mole) is poured gradually into 272 ml. of concentrated H2SO4 with stirring. The rate of addition is adjusted to maintain the reaction temperature below 40° C. When the reaction subsides, the cooling bath is removed, but stirring is continued for 20 min. The mixture is poured into 3 l. of water. A precipitate forms, and is collected on a filter, washed with water, and air-dried. recrystallization of this material twice from i-PrOH yields 128.8 g. (66%) of the desired intermediate, m.p. 96°-98° C. An analytical sample was prepared by chromatography an alumina (benzene) and recrystallized from heptane, m.p. 98-100° C.

reactant | 2Chloro-1,1-difluoro-3-(p-methoxyphenyl)-2-cyclobutene | 0.93 mole, 215 g | ClC=1C(CC1C1=CC=C(C=C1)OC)(F)F | C11H9ClF2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 2-Chloro-3-(p-methoxyphenyl)-2-cyclobuten-1-one | ClC=1C(CC1C1=CC=C(C=C1)OC)=O | C11H9ClO2
